US07423051B2
To a solution of 2-iodoanisole (4.97g, 21.24 mmol, Aldrich 98%) in anhydrous tetrahydrofuran (33 mL) at −78° C., was added a solution of n-butyllithium in hexane (2.5 M, 8.5 mL, 21.25 mmol, Aldrich). The reaction was stirred at −78 OC for 0.5-1 hr to give a solution of the 2-methoxyphenyl lithium for the following reaction.

reactant | 2-iodoanisole | 21.24 mmol, 4.97g | IC1=C(C=CC=C1)OC | C7H7IO
reactant | n-butyllithium | C(CCC)[Li]
reactant | hexane | 21.25 mmol, 2.5 M, 8.5 mL | CCCCCC | C6H14
solvent | tetrahydrofuran | 33 mL | O1CCCC1 | C4H8O
product | 2-methoxyphenyl lithium | COC1=C(C=CC=C1)[Li] | InChI=1S/C7H7O.Li/c1-8-7-5-3-2-4-6-7;/h2-5H,1H3;
